US04282230
2,6-Dichloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]quinoline, hydrochloride (1:1)
8.7 g of 4-bromomethyl-2,6-dichloroquinoline (0.03 mol), 7.7 g of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.03 mol), 30 g of sodium hydroxide (0.75 mol) dissolved in 30 ml water, 0.5 g of benzyltrimethylammonium chloride and 100 ml of tetrahydrofuran are reacted as described in Example 1. Work up of the mixture results in an oil, which after treatment in boiling ether, is dissolved in 250 ml of ethyl acetate. To the charcoaled solution is added etheral hydrochloric acid. The precipitated hydrochloride is filtered off, washed with ethyl acetate, treated with boiling acetonitrile and finally with anhydrous ether. Yield 4.9 g (32.6%); m.p. 192°-194° C.

reactant | 4-bromomethyl-2,6-dichloroquinoline | 0.03 mol, 8.7 g | BrCC1=CC(=NC2=CC=C(C=C12)Cl)Cl | C10H6BrCl2N
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.03 mol, 7.7 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | sodium hydroxide | 0.75 mol, 30 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 0.5 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,6-Dichloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]quinoline, hydrochloride | Cl.ClC1=NC2=CC=C(C=C2C(=C1)COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl)Cl | InChI=1S/C21H15Cl4N3O.ClH/c22-14-2-4-19-17(8-14)13(7-21(25)27-19)11-29-20(10-28-6-5-26-12-28)16-3-1-15(23)9-18(16)24;/h1-9,12,20H,10-11H2;1H
